data/mechanisms/records/IMS8-EQ8.7c.json
{"mechanism_id": "IMS8-EQ8.7c", "species": [{"species_id": "distonic_gamma_radical_cation", "mapped_smiles": "[CH3:6][CH2:5][CH:4][CH2:3][CH2:2][CH:1]=[O+:7][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetaldehyde_enol_radical_cation", "mapped_smiles": "[CH2:2]=[CH:1][O+:7][1H:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "but_1_ene_neutral", "mapped_smiles": "[CH2:3]=[CH:4][CH2:5][CH3:6]", "role": "intermediate", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_gamma_radical_cation"]}, {"state_id": "state_complex", "species_ids": ["acetaldehyde_enol_radical_cation", "but_1_ene_neutral"]}], "steps": [{"step_id": "step_beta_cleavage_low_energy", "from_state": "state_precursor", "to_state": "state_complex", "step_class": "beta_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage_low_energy", "support_type": "textbook_proposed", "locator": {"page": 144, "equation": "8.7", "section": "8 / Detailed Mechanisms of Ion Fragmentation (Random or hidden rearrangements)"}, "confidence": 0.8, "curator_note": "Equation 8.7, row 1 -> row 2 (arrow labelled 'low energy'). Same beta-cleavage bond changes as the high-energy channel, but the two fragments do NOT separate: the book draws them inside square brackets as a non-covalent ion-molecule complex [1-butene ... CH2=CH-OH+.]. A complex is not a single mapped SMILES, so it is encoded here as the two-species product state {enol radical cation, 1-butene}; they remain associated (held by ion-dipole forces, per the page's text about threshold-energy fragments being trapped in a potential well) and go on to exchange hydrogen (steps IMS8-EQ8.7d, IMS8-EQ8.7e) rather than dissociating. Book draws 0 arc(s) on the 'low energy' arrow itself; the 5 moves are the implicit beta-cleavage flow, identical to IMS8-EQ8.7b. The curved arrows drawn INSIDE the bracket belong to the following intra-complex H-transfer step (IMS8-EQ8.7d), not to this cleavage."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "low-energy electron ionization", "electron_energy_ev": null, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
